US04769378
8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidin-5-ol
To a stirred solution of 11.0 g of 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidine in 300 ml of acetone were added 6.32 g of potassium permanganate. The mixture was stirred under a nitrogen atmosphere for 2 hours at which time an additional 6.32 g of potassium permanganate were added. The mixture was stirred overnight at room temperature, filtered, and the filtrate concentrated in vacuo. The residue was taken up in a mixture of ethyl acetate and a saturated sodium chloride solution. The layers were separated and the organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was crystallized first from ethyl acetate/isooctane and then from ethyl acetate to provide 3.06 g of the desired title product, m.p. 194°-195.5° C.

reactant | 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidine | 11.0 g | ClC1=CC=C2C(C3=C(N=CN=C3)C2=C1)C1=CC=C(C=C1)Cl | C17H10Cl2N2
reactant | potassium permanganate | 6.32 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 6.32 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidin-5-ol | 3.06 g | ClC1=CC=C2C(C3=C(N=CN=C3)C2=C1)(O)C1=CC=C(C=C1)Cl | C17H10Cl2N2O
